US08633175B2
1,1-Dimethylethyl {2-[(4-bromo-3-methylphenyl)oxy]ethyl}carbamate
To a solution of 4-bromo-3-methylphenol (0.187 g; 1.00 mmol), N-Boc aminoethanol (0.39 mL; 2.5 mmol) and PPh3 (0.655 g; 2.5 mmol) in anhyd PhH (5 mL) at 0° C. was added DIAD (0.49 mL; 2.5 mmol), dropwise over 15 min. The mixture was stirred 16 h at room temperature, diluted with Et2O, washed (2×satd Na2CO3, 2×H2O, brine), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless gum, which solidified on standing. LC/MS (method A) tR 2.95 min, m/z 330, 332 (M+H, Br isotopes, 2%), 352, 354 (M+Na, Br isotopes, 40-43%), 230, 232 ([M−Boc]+H, Br isotopes, 100%).

reactant | 4-bromo-3-methylphenol | 1.00 mmol, 0.187 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | N-Boc aminoethanol | 2.5 mmol, 0.39 mL | C(=O)(OC(C)(C)C)NC(C)O | C7H15NO3
reactant | PPh3 | 2.5 mmol, 0.655 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.5 mmol, 0.49 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | Et2O | CCOCC | C4H10O
solvent | PhH | 5 mL | C1=CC=CC=C1 | C6H6
product | 1,1-Dimethylethyl {2-[(4-bromo-3-methylphenyl)oxy]ethyl}carbamate | BrC1=C(C=C(C=C1)OCCNC(OC(C)(C)C)=O)C | C14H20BrNO3
